US08283315B2
2,5,7-tritertbutyltryptophan
Tryptophan (4.00 g, 19.59 mmol), trifluoroacetic acid 98% (60 ml) and tert-butanol (15.54 g, 209.66 mmol) were mixed. The reaction mixture was stirred at room temperature for 48 hours. The trifluoroacetic acid was evaporated. The residue was suspended in 40 ml distilled water, and the pH adjusted to neutral with addition of sodium hydrogen carbonate. The crude product was obtained by filtration. Crystallisation from 50% ethanol affored the product as a white powder (85-90% pure).

reactant | Tryptophan | 19.59 mmol, 4.00 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | tert-butanol | 209.66 mmol, 15.54 g | C(C)(C)(C)O | C4H10O
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2,5,7-tritertbutyltryptophan | C(C)(C)(C)C1=C(C[C@H](N)C(=O)O)C2=CC(=CC(=C2N1)C(C)(C)C)C(C)(C)C | C23H36N2O2
